US05948820
(9) 2-Acetamido-2-(2-(2-heptyloxyphenyl)ethyl)pentyl acetate
To a suspension of sodium hydride (85 mg) in dimethylformamide (5 ml), a solution of 2-acetamido-2-(2-(2-hydroxyphenyl)ethyl)pentyl acetate (0.65 g) in dimethylformamide (5 ml) was added under ice-cooling and the mixture was stirred at room temperature for an hour. To the solution, a solution of heptyl bromide (0.42 g) in tetrahydrofuran (4 ml) was added. The mixture was stirred at the same temperature for 6 hours and left standing overnight. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with an aqueous sodium hydrogencarbonate solution and a saturated brine and dried over magnesium sulfate. The solvent was distilled away under reduced pressure and the residue was subjected to silica gel chromatography (eluent; chloroform-methanol=12:1) to give the subject compound (0.36 g).

reactant | sodium hydride | 85 mg | [H-].[Na+]
reactant | 2-acetamido-2-(2-(2-hydroxyphenyl)ethyl)pentyl acetate | 0.65 g | C(C)(=O)OCC(CCC)(CCC1=C(C=CC=C1)O)NC(C)=O | C17H25NO4
reactant | heptyl bromide | 0.42 g | C(CCCCCC)Br | C7H15Br
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-Acetamido-2-(2-(2-heptyloxyphenyl)ethyl)pentyl acetate | 0.36 g | C(C)(=O)OCC(CCC)(CCC1=C(C=CC=C1)OCCCCCCC)NC(C)=O | C24H39NO4
